US08871756B2
3-[2-(1,3,4,5-Tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]propanoic acid
To a solution of methyl 3-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]propanoate (1.4 g, 3.89 mmol) in methanol (10 mL) was added an aqueous solution of sodium hydroxide (4 N, 16 mL) and the resulting mixture was stirred at room temperature for 4 hours. The reaction was acidified to pH 4 with 5 N hydrochloric acid, and then extracted with ethyl acetate (10 mL×3). The organic layer was dried over sodium sulfate and concentrated in vacuo to give a residue which was purified by flash column chromatography to afford 1.1 g of product as a white solid (yield was 82%). MS obsd. (ESI+) [(M+H)+] 347.

reactant | methyl 3-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]propanoate | 3.89 mmol, 1.4 g | C1N(CCCC2=C1C=CC=C2)C2=NC1=CC=CC=C1C(=C2)CCC(=O)OC | C23H24N2O2
reactant | sodium hydroxide | 4 N, 16 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 3-[2-(1,3,4,5-Tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]propanoic acid | 1.1 g, yield was 82% | C1N(CCCC2=C1C=CC=C2)C2=NC1=CC=CC=C1C(=C2)CCC(=O)O | C22H22N2O2
